US06448290B1
4-Phenylsulfonylamino-3-nitrobenzotrifluoride
To a solution of 4-amino-3-nitrobenzotrifluoride (3.09 g) in THF sodium hydride (660 mg) was added. The mixture was stirred for 30 minutes at room temperature. After stirring, benzenesulfonylchloride (3.18 g) was added thereto. The mixture was stirred for 2 hours at room temperature. In addition, sodium hydride (420 mg) was added thereto. The mixture was stirred for 1 hour. The reaction mixture was acidified by adding an aqueous solution of ammonium chloride and extracted with ethyl acetate. The organic layer was washed, dried over, filtered and concentrated to give the title compound (4.86 g) having the following physical data.

reactant | 4-amino-3-nitrobenzotrifluoride | 3.09 g | NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H5F3N2O2
reactant | benzenesulfonylchloride | 3.18 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydride | 420 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
product | 4-Phenylsulfonylamino-3-nitrobenzotrifluoride | 4.86 g | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H9F3N2O4S
